US06211199B1
Combine 3-phenyl-3-(2-hydroxyethyl)pyrrolidine (prepared by extraction from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt) (20 g, 32.8 mmol) and sodium bicarbonate (16.5 g, 197 mmol) in tetrahydrofuran/water (160 mL/80 mL). Add dropwise di-t-butyl dicarbonate (33 mmol). After 16 hours, evaporate the reaction mixture in vacuo to remove most of the tetrahydrofuran and extract twice with dichloromethane. Combine the organic layers and extract with water and then brine, to give a residue. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give residue. Chromatograph the residue on silica gel to give 1-(t-butoxycarbonyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine.

reactant | 3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 32.8 mmol, 20 g | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
reactant | sodium bicarbonate | 197 mmol, 16.5 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 33 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran water | 160 mL | O1CCCC1.O
product | 1-(t-butoxycarbonyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1CC(CC1)(CCO)C1=CC=CC=C1 | C17H25NO3
